US05716624
(f) Synthesis of methyl 2-hydroxy-4-[3-hydroxy-3-(3-methoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoate
Following the basic procedure of Example 11(d), by reacting 1.15 g (4.2 mmol) of α-ethynyl-3-methoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol with 1.21 g (4.64 mmol) of methyl 2-hydroxy-4-iodobenzoate, 1.36 g (76%) of the expected product, with a melting point of 125°-126° C., were obtained.

reactant | α-ethynyl-3-methoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol | 4.2 mmol, 1.15 g | C(#C)C(O)C1=CC=2C(CCC(C2C=C1OC)(C)C)(C)C | C18H24O2
reactant | methyl 2-hydroxy-4-iodobenzoate | 4.64 mmol, 1.21 g | OC1=C(C(=O)OC)C=CC(=C1)I | C8H7IO3
product | methyl 2-hydroxy-4-[3-hydroxy-3-(3-methoxy-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoate | 1.36 g, 76% | OC1=C(C(=O)OC)C=CC(=C1)C#CC(C1=CC=2C(CCC(C2C=C1OC)(C)C)(C)C)O | C26H30O5
